US08198279B2
1-(4-(2-amino-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-yl)-3-(3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)urea (AA-080)
Method F2 was used with 2-amino-8-(4-aminonaphthalen-1-yloxy)pyrido[2,3-b]pyrazin-3(4H)-one and 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole to afford the title compound as a slightly pink solid (70 mg, 80%). 1H-NMR (DMSO-d6), δ (ppm), J (Hz): 1.29 (s, 9H, tert-Bu), 6.31 (d, 1H, Harom, J=5.5 Hz), 6.41 (s, 1H, Harom), 7.22 (d, 1H, Harom, J=8.3 Hz), 7.44 (t, 1H, J=7.0 Hz), 7.54-7.65 (m, 6H, Harom), 7.85 (d, 1H, Harom, J=8.3 Hz), 7.88-7.91 (m, 2H, Harom), 8.06 (d, 1H, Harom, J=8.6 Hz), 8.76 (s, 1H, NHurea), 9.04 (s, 1H, NHurea), 12.58 (s, 1H, NHlactame). 13C-NMR (DMSO-d6), δ (ppm), J (Hz): 30.08 (tert-Bu), 31.92 (tert-Bu), 95.69, 106.46, 116.05, 118.94, 119.36, 121.56, 122.27, 124.12 (2*C), 126.32, 126.52, 126.55, 127.11, 127.97, 129.17 (2*C), 131.22, 137.15, 138.59, 142.95, 143.56, 146.22, 151.71, 152.33, 152.72, 157.12, 160.68. HRMS (EI): m/z [M+H] calcd for C31H2O8O3: 561.2357; found: 561.2351.

reactant | 2-amino-8-(4-aminonaphthalen-1-yloxy)pyrido[2,3-b]pyrazin-3(4H)-one | NC1=NC2=C(NC1=O)N=CC=C2OC2=CC=C(C1=CC=CC=C21)N | C17H13N5O2
reactant | 3-tert-butyl-5-isocyanato-1-phenyl-1H-pyrazole | C(C)(C)(C)C1=NN(C(=C1)N=C=O)C1=CC=CC=C1 | C14H15N3O
product | 1-(4-(2-amino-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-yl)-3-(3-tert-butyl-1-phenyl-1H-pyrazol-5-yl)urea | NC1=NC2=C(NC1=O)N=CC=C2OC2=CC=C(C1=CC=CC=C21)NC(=O)NC2=CC(=NN2C2=CC=CC=C2)C(C)(C)C | C31H28N8O3
